US06492383B1
(2-Benzo[1,3]dioxol-5-yl-thieno[3,2-b]pyridin-7-yl)-(2-methyl-1H-indol-5-yl)-amine
The title compound was prepared from 1,3-benzodioxole-5-boronic acid and (2-bromothieno[3,2-b]pyridin-7-yl)-(2-methyl-1H-indol-5-yl)-amine by the procedure analogous to example 2 above. 1H NMR (400 MHz, CD3OD) δ8.00 (d, 1H), 7.38 (s, 1H), 7.26 (m, 2H), 7.13 (m, 2H), 6.93 (d, 1H), 6.77 (d, 1H), 6.52 (d, 1H), 6.08 (s, 1h), 5.92 (s, 2H), 2.39 (s, 3H); RP18-HPLC RT: 6.09 minutes; API MS: 400 (M+1).

reactant | 1,3-benzodioxole-5-boronic acid | O1COC2=C1C=CC(=C2)B(O)O | C7H7BO4
reactant | (2-bromothieno[3,2-b]pyridin-7-yl)-(2-methyl-1H-indol-5-yl)-amine | BrC1=CC2=NC=CC(=C2S1)NC=1C=C2C=C(NC2=CC1)C | C16H12BrN3S
product | (2-Benzo[1,3]dioxol-5-yl-thieno[3,2-b]pyridin-7-yl)-(2-methyl-1H-indol-5-yl)-amine | O1COC2=C1C=CC(=C2)C2=CC1=NC=CC(=C1S2)NC=2C=C1C=C(NC1=CC2)C | C23H17N3O2S
